US07790727B2
The compound was prepared by analogy to Example 7, starting from commercially available 1-bromo-3-fluoro-2-methoxy-5-nitrobenzene, which was reacted with tert.butyloxycarbonyl-piperazine by analogy to preparation example 3.1 top yield 1-(N-boc-piperazin-4-yl)-3-fluoro-2-methoxy-5-nitrobenzene. Reduction of the nitro group to the corresponding aniline by analogy to preparation example 3.2, subsequent coupling with commercially available 3-difluoromethoxybenzenesulfonylchloride by analogy to preparation example 1.4, and final deprotection of the tert.-butoxycarbonyl group under acidic conditions by analogy to example 1 yielded the title compound.

reactant | 1-bromo-3-fluoro-2-methoxy-5-nitrobenzene | BrC1=C(C(=CC(=C1)[N+](=O)[O-])F)OC | C7H5BrFNO3
reactant | tert.butyloxycarbonyl-piperazine | C(C)(C)(C)OC(=O)N1CCNCC1 | C9H18N2O2
product | 1-(N-boc-piperazin-4-yl)-3-fluoro-2-methoxy-5-nitrobenzene | C(=O)(OC(C)(C)C)N1CCN(CC1)C1=C(C(=CC(=C1)[N+](=O)[O-])F)OC | C16H22FN3O5
